US03931177
3-[5-Amino-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionic acid was esterified with hydrogen chloride in methanol. Evaporation of the solution under reduced pressure gave a residue which was dissolved in the minimum of water and the solution was neutralised with sodium carbonate and extracted with dichloromethane. The combined extracts were washed with saturated brine, dried, and evaporated to give methyl 3-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionate.

reactant | 3-[5-Amino-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionic acid | NC=1C=CC(=C(C(=O)CCC(=O)O)C1)OCC(CNC(C)(C)C)O | C17H26N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | methyl 3-[5-amino-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionate | NC=1C=CC(=C(C(=O)CCC(=O)OC)C1)OCC(CNC(C)(C)C)O | C18H28N2O5
